US08420640B2
A suspension of N-methyl-5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine (0.5 g, 1.2 mmol), and platinum oxide (25 mg, 5%) in 20 ml ethanol was stirred at room temperature under hydrogen atmosphere overnight. The mixture was filtered with the aid of celite. (4-(3-(N-methyl-N-phenylamino)-4-aminophenyl)piperazin-1-yl)(phenyl)methanone (0.42 g, 90%) was obtained by flash column chromatograph (60% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.98 (d, br, 4H), 3.24 (s, 3H), 3.58 (s, br, 2H), 3.63 (s, br, 2H), 3.94 (s, br, 2H), 6.68 (d, J=7.9 Hz, 2H), 6.73 (d, J=2.2 Hz, 1H), 6.82 (m, 3H), 7.23 (m, 2H), 7.45 (s, 5H). 13C NMR (125 MHz, CDCl3): δ (ppm) 39.1, 51.8, 113.9, 117.4, 117.8, 118.1, 118.2, 129.0, 129.6, 127.6, 130.2, 135.3, 136.2, 138.8, 145.2, 149.2, 170.8.

reactant | N-methyl-5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine | 1.2 mmol, 0.5 g | CN(C1=C(C=CC(=C1)N1CCN(CC1)C(C1=CC=CC=C1)=O)[N+](=O)[O-])C1=CC=CC=C1 | C24H24N4O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | platinum oxide | 25 mg | [Pt]=O
product | (4-(3-(N-methyl-N-phenylamino)-4-aminophenyl)piperazin-1-yl)(phenyl)methanone | 0.42 g, 90% | CN(C1=CC=CC=C1)C=1C=C(C=CC1N)N1CCN(CC1)C(=O)C1=CC=CC=C1 | C24H26N4O
